US07851473B2
(1) 2,2,2-Trichloroethyl 1,3,4-thiadiazol-2-ylcarbamate
To a solution of 1,3,4-thiadiazole-2-amine (1.00 g, 9.89 mmol) and pyridine (0.968 ml, 11.9 mmol) in tetrahydrofuran (33 ml) was added 2,2,2-trichloroethyl chloroformate (1.64 ml, 11.9 mmol) with ice-cooling and the mixture was stirred at room temperature for 1 hour. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Hexane was poured to the residue and a solid was collected by filtration to obtain the desired product (2.16 g, 79.1%).

reactant | 1,3,4-thiadiazole-2-amine | 9.89 mmol, 1.00 g | S1C(=NN=C1)N | C2H3N3S
reactant | pyridine | 11.9 mmol, 0.968 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 11.9 mmol, 1.64 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl 1,3,4-thiadiazol-2-ylcarbamate | 2.16 g, 79.1% | S1C(=NN=C1)NC(OCC(Cl)(Cl)Cl)=O | C5H4Cl3N3O2S
